US08563577B2
Preparation of methyl 2-(3-fluorophenyl)-2-(phenylamino)acetate (I16)
Methyl 2-bromo-2-(3-fluorophenyl)acetate (I15) (300 mg, 1.21 mmol), DIPEA (0.32 ml, 1.82 mmol), and aniline (0.17 ml, 1.82 mmol) were dissolved in acetonitrile (4 ml) and heated under microwave irradiation at 100° C. for 1 hour. Acetonitrile was evaporated, and the residue was purified by flash chromatography (Petroleum ether/EtOAc=95/5) to obtain intermediate I16 (229 mg, 73% yield).

reactant | Methyl 2-bromo-2-(3-fluorophenyl)acetate | 1.21 mmol, 300 mg | BrC(C(=O)OC)C1=CC(=CC=C1)F | C9H8BrFO2
reactant | DIPEA | 1.82 mmol, 0.32 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | aniline | 1.82 mmol, 0.17 ml | NC1=CC=CC=C1 | C6H7N
solvent | acetonitrile | 4 ml | C(C)#N | C2H3N
product | methyl 2-(3-fluorophenyl)-2-(phenylamino)acetate | 73% yield | FC=1C=C(C=CC1)C(C(=O)OC)NC1=CC=CC=C1 | C15H14FNO2
